US09120749B2
(6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-((trans-4-(((R)-3-fluoropyrrolidin-1-yl)methyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone
Following general procedure D, (6-bromo-4-((trans-4-(((R)-3-fluoropyrrolidin-1-yl)methyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone (47 mg, 0.10 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (43 mg, 0.16 mmol) to afford the desired product (33.9 mg, 63%) as a yellow solid. 1H NMR (500 MHz, CDCl3) 1H NMR (500 MHz, CDCl3) δ 10.78 (br s, 1H), 9.24 (s, 1H), 8.24 (d, J=2.1 Hz, 1H), 8.03 (d, J=8.7 Hz, 1H), 7.84 (dd, J=8.7, 2.1 Hz, 1H), 7.44-7.39 (d, J=2.0 Hz, 1H), 7.29 (dd, J=11.1, 2.0 Hz, 1H), 5.25-5.10 (m, 1H), 4.10-4.04 (m, 1H), 2.91-2.65 (m, 4H), 2.51-2.27 (m, 5H), 2.24-2.01 (m, 5H), 1.65-1.50 (m, 3H), 1.31-1.21 (m, 1H), 1.13-1.04 (m, 4H). ESI MS m/z 540 [C30H32ClF2N3O2+H]+; HPLC>99% (AUC), tR=10.95 min.

reactant | (6-bromo-4-((trans-4-(((R)-3-fluoropyrrolidin-1-yl)methyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone | 0.10 mmol, 47 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)CN1C[C@@H](CC1)F | C24H29BrFN3O
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.16 mmol, 43 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | (6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-((trans-4-(((R)-3-fluoropyrrolidin-1-yl)methyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone | 33.9 mg, 63% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)CN1C[C@@H](CC1)F | C30H32ClF2N3O2
